US05827881
A! Starting from 10 g (0.086 mole) of levulinic acid, 11.8 ml (0.086 mole) of triethylamine, 11.2 ml (0.086 mole) of isobutyl chloroformate and 13.3 ml (0.103 mole) of N-methyl-benzylamine in 200 ml of acetone, and following the procedure of Example 6,B!, there were obtained 16.7 g (yield: 88%) of N-benzyl-N-methyl-4-oxo-pentanamide.

reactant | levulinic acid | 0.086 mole, 10 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | triethylamine | 0.086 mole, 11.8 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.086 mole, 11.2 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl-benzylamine | 0.103 mole, 13.3 ml | CNCC1=CC=CC=C1 | C8H11N
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-benzyl-N-methyl-4-oxo-pentanamide | 16.7 g, yield: 88% | C(C1=CC=CC=C1)N(C(CCC(C)=O)=O)C | C13H17NO2
